US08754114B2
N-[3-(7-{4-[2-(4-Hydroxypiperidin-1-yl)-1-methyl-2-oxoethyl]phenyl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedure analogous to those described for the synthesis of Example 98, Step 9 starting from 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoic acid and 4-hydroxypiperidine. LCMS (M+H)+: m/z=567.3

reactant | 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoic acid | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C2=CC=C(C=C2)C(C(=O)O)C)(F)F | C24H20F3N5O3
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | N-[3-(7-{4-[2-(4-Hydroxypiperidin-1-yl)-1-methyl-2-oxoethyl]phenyl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | OC1CCN(CC1)C(C(C)C1=CC=C(C=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)=O | C29H29F3N6O3
